US04841067
To a solution of 100 mg of (3S)-3-carbobenzoxyamino-5-methyl-1,2-epoxyhexane in 10 ml of diethyl ether were added 2 g of dry silica gel and 0.1 ml of benzylamine, and the mixture was stirred for 16 hours at room temperature, then heated under reflux for 2 hours. After filtration of the silica gel, the filtrate was evaporated under reduced pressure. The residue was purified by preparative silica gel thin layer chromatography (developing solvent: lower layer of chloroform/methanol/water=8/3/1 by volume) to obtain 56 mg of (3S)-N-benzyl-3-carbobenzoxyamino-2-hydroxy-5-methylhexylamine as a colorless viscous oil. To a solution of 54 mg of the amine compound obtained in 10 ml methanol was added 0.2 ml of a 2N-hydrochloric acid. The mixture was hydrogenated over 10 mg of palladium charcoal under hydrogen atmosphere. After filtration of the catalyst, the filtrate was evaporated under reduced pressure to obtain 43 mg of (3S) -N-benzyl-3-amino-2-hydroxy-5-methylhexylamine dihydrochloride.

reactant | (3S)-3-carbobenzoxyamino-5-methyl-1,2-epoxyhexane | 100 mg | C(=O)(OCC1=CC=CC=C1)N[C@H](C1CO1)CC(C)C | C15H21NO3
reactant | benzylamine | 0.1 ml | C(C1=CC=CC=C1)N | C7H9N
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
product | (3S)-N-benzyl-3-carbobenzoxyamino-2-hydroxy-5-methylhexylamine | 56 mg | C(C1=CC=CC=C1)NCC([C@H](CC(C)C)NC(=O)OCC1=CC=CC=C1)O | C22H30N2O3
